US07566724B2
Under an argon atmosphere, a solution of tetrahydro-4-(4-iodophenyl)-2H-pyran-4-ol (2.99 g) in anhydrous DMF (10 ml) was added dropwise to a suspension of sodium hydride (60 wt %) (432 mg) in anhydrous DMF (20 ml) at room temperature, and the resulting mixture was stirred at room temperature for 75 minutes. Methyl iodide (0.92 ml) was added dropwise to the reaction solution and the resulting mixture was stirred at room temperature for 8.5 hours. Water was added thereto and the resulting mixture was extracted twice with ethyl acetate. Organic layers were washed with saturated brine, and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: cyclohexane/ethyl acetate=10/1) to obtain tetrahydro-4-(4-iodophenyl)-4-methoxy-2H-pyran (2.87 g). NMR (H1, CDCl3): δ 1.90-2.02 (4H, m), 2.97 (3H, s), 3.80-3.88 (4H, m), 7.14 (1H, d, J=8.5 Hz), 7.70 (1H, d, J=8.5 Hz)

reactant | tetrahydro-4-(4-iodophenyl)-2H-pyran-4-ol | 2.99 g | IC1=CC=C(C=C1)C1(CCOCC1)O | C11H13IO2
reactant | sodium hydride | 432 mg | [H-].[Na+]
reactant | Methyl iodide | 0.92 ml | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | tetrahydro-4-(4-iodophenyl)-4-methoxy-2H-pyran | 2.87 g | IC1=CC=C(C=C1)C1(CCOCC1)OC | C12H15IO2
